US07776874B2
3-Chloro-N-((3S)-1-{[1-(4-chlorophenyl)cyclopropyl]carbonyl}pyrrolidin-3-yl)-2-methylbenzenesulfonamide
tert-Butyl((3S)-1-{[1-(4-chlorophenyl)cyclopropyl]carbonyl}pyrrolidin-3-yl) carbamate (7.30 mg, 0.0000200 mol) was treated with hydrogen chloride in 1,4-dioxane (4.0 M, 0.50 mL) at rt for 30 minutes. The solvent was evaporated under reduced pressure and acetonitrile (1.0 mL, 0.019 mol) was added. The mixture was then treated with N,N-diisopropylethylamine (20.0 μL, 0.000115 mol), followed by the addition of 3-chloro-2-methylbenzenesulfonyl chloride (4.50 mg, 0.0000200 mol) at rt. The reaction mixture was stirred at rt for 1 h and then acidified (pH=2.0) with TFA. The solution was diluted with methanol (0.80 mL) and was submitted for purification by prep-HPLC to give the desired product. LCMS: m/z 454.1 (M+H)+

reactant | tert-Butyl((3S)-1-{[1-(4-chlorophenyl)cyclopropyl]carbonyl}pyrrolidin-3-yl) carbamate | 0.0000200 mol, 7.30 mg | C(N)(O[C@@H]1C(N(CC1)C(=O)C1(CC1)C1=CC=C(C=C1)Cl)C(C)(C)C)=O | C19H25ClN2O3
reactant | hydrogen chloride | Cl | ClH
reactant | acetonitrile | 0.019 mol, 1.0 mL | C(C)#N | C2H3N
reactant | N,N-diisopropylethylamine | 0.000115 mol, 20.0 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-chloro-2-methylbenzenesulfonyl chloride | 0.0000200 mol, 4.50 mg | ClC=1C(=C(C=CC1)S(=O)(=O)Cl)C | C7H6Cl2O2S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | 1,4-dioxane | 4.0 M, 0.50 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 0.80 mL | CO | CH4O
product | 3-Chloro-N-((3S)-1-{[1-(4-chlorophenyl)cyclopropyl]carbonyl}pyrrolidin-3-yl)-2-methylbenzenesulfonamide | ClC=1C(=C(C=CC1)S(=O)(=O)N[C@@H]1CN(CC1)C(=O)C1(CC1)C1=CC=C(C=C1)Cl)C | C21H22Cl2N2O3S
